US06794406B2
3-Isopropyl-5-(4-nitro-2,6-dimethyl-phenoxy)-1H-indole
11.44 g (58.76 mmol) of 5-hydroxy-3-isopropyl-indole are dissolved in 350 ml of DMSO, 8.93 g (64.63 mmol) of potassium carbonate in solid form are introduced and subsequently 9.94 g (58.76 mmol) of 3,5-dimethyl-4-fluoronitrobenzene are added. The reaction solution is stirred for 2 hours at 100° C. under argon. Afterwards it is cooled to room temperature, 100 ml of ethyl acetate and 600 ml of H2O are added; ethyl acetate is separated off after phase separation and the aqueous phase is reextracted twice with ethyl acetate. The combined organic phases are washed twice with sodium chloride solution, dried over sodium sulphate, filtered and concentrated to dryness. The residue is purified by chromatography on silica gel by means of cyclohexane/ethyl acetate (10:1).

reactant | 5-hydroxy-3-isopropyl-indole | 58.76 mmol, 11.44 g | OC=1C=C2C(=CNC2=CC1)C(C)C | C11H13NO
reactant | potassium carbonate | 64.63 mmol, 8.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-dimethyl-4-fluoronitrobenzene | 58.76 mmol, 9.94 g | CC=1C=C(C=C(C1F)C)[N+](=O)[O-] | C8H8FNO2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 350 ml | CS(=O)C | C2H6OS
solvent | H2O | 600 ml | O | H2O
product | 3-Isopropyl-5-(4-nitro-2,6-dimethyl-phenoxy)-1H-indole | C(C)(C)C1=CNC2=CC=C(C=C12)OC1=C(C=C(C=C1C)[N+](=O)[O-])C | C19H20N2O3
